US04014915
A solution of ethyl chloroformate (2.17 g.) in benzene (10 ml.) was added dropwise to a solution of 1-hydroxy-6-chloro-1H-benzotriazole (3.38 g.) and triethylamine (2.80 ml.) in benzene (30 ml.) under ice-cooling and stirring. Benzene (30 ml.) was further added to the mixture and the reaction temperature was slowly elevated to room temperature the mixture was allowed to stand overnight. Precipitated crystals were filtered off and the filtrate was concentrated. Benzene was added to the residue and an insoluble material was filtered off. The filtrate was concentrated to give 1-ethoxycarbonyloxy-6-chloro1H-benzotriazole (2.2 g.), crystals. The precipitated crystals filtered off and the insoluble material in benzene were mixed and then washed with water, a sodium bicarbonate aqueous solution, 1N hydrochloric acid and water, and recrystallized from methanol (75 ml.) to give the desired compound (3.5 g.), white needles, mp 160° to 162° C.

reactant | ethyl chloroformate | 2.17 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-hydroxy-6-chloro-1H-benzotriazole | 3.38 g | ON1N=NC2=C1C=C(C=C2)Cl | C6H4ClN3O
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | Benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-ethoxycarbonyloxy-6-chloro1H-benzotriazole | 2.2 g | C(C)OC(=O)ON1N=NC2=C1C=C(C=C2)Cl | C9H8ClN3O3
